US05519040
2-(1-hexynyl)-5-thiazole sulfonamide (0.04 g, 0.16 mmol) was dissolved in 5 mL of methanol. 0.01 g of palladium/carbon was added and the solution purged three times with hydrogen. The reaction was left under 30 psi of hydrogen for 48 hours. The mixture was filtered through celite and the filtrate concentrated. The residue was purified on the chromatatron (eluted with 5:1.5:3.5 CH2Cl2 /Et2O, hexane) to afford 32 mg (80%) of 2-hexyl-5-thiazole sulfonamide.

reactant | 2-(1-hexynyl)-5-thiazole sulfonamide | 0.16 mmol, 0.04 g | C(#CCCCC)C=1SC(=CN1)S(=O)(=O)N | C9H12N2O2S2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium/carbon | 0.01 g | [Pd] | Pd
product | 2-hexyl-5-thiazole sulfonamide | 32 mg, 80% | C(CCCCC)C=1SC(=CN1)S(=O)(=O)N | C9H16N2O2S2
